US04730003
7,7-Dimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]-benzimidazol-6-one
288 mg. (1.51 mmole) 5,6-diamino-3,3-dimethylindolin-2-one and 66 mg. (1.43 mmole) formic acid are heated for 1 hour at 100° C. After the addition of a further 24 mg. (0.52 mmole) formic acid, the reaction mixture is further heated to 100° C. for 60 minutes. Thereafter, trituration is carried out with 0.5 ml. amounts of diethyl ether, followed by suction filtration. There are obtained 277 mg. (91% of theory) of the title compound in the form of pale crystals; m.p. 278°-280° C.

reactant | 5,6-diamino-3,3-dimethylindolin-2-one | 1.51 mmole | NC=1C=C2C(C(NC2=CC1N)=O)(C)C | C10H13N3O
reactant | formic acid | 1.43 mmole | C(=O)O | CH2O2
reactant | formic acid | 0.52 mmole | C(=O)O | CH2O2
product | 7,7-Dimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]-benzimidazol-6-one | CC1(C(NC2=CC3=C(N=CN3)C=C21)=O)C | C11H11N3O
